US05567698
A solution of 2,5-dichlorophenylthioacetic acid (13.0 g, 54.9 mmol) in methylene chloride (55 mL) and thionyl chloride (10 mL, 137 mmol) was heated at reflux for 3 h. The reaction mixture was allowed to cool to room temperature and was concentrated in vacuo. The residue was evaporated two times from toluene to give 14 g of 2,5-dichlorophenylthioacetyl chloride (100% yield) as a slightly colored product which was used in the next step without purification. 1H NMR (300 MHz, CDCl3) δ4.13 (s, 2H), 7.22 (dd, J=2, 9 Hz, 1H), 7.35 (d, J=9 Hz, 1H), 7.39 (d, J=2 Hz, 1H).

reactant | 2,5-dichlorophenylthioacetic acid | 54.9 mmol, 13.0 g | ClC1=C(C=C(C=C1)Cl)CC(=S)O | C8H6Cl2OS
reactant | thionyl chloride | 137 mmol, 10 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 55 mL | C(Cl)Cl | CH2Cl2
product | 2,5-dichlorophenylthioacetyl chloride | 14 g, 100% yield | ClC1=C(C=C(C=C1)Cl)CC(=S)Cl | C8H5Cl3S
